US05929094
Step B: 2-Amino-4-nitro-6-bromo-phenol
10 g of NH4Cl and 2 mL of NH4OH were added to a solution of 4.7 g of 2-bromo-4,6-dinitro-phenol and 50 mL of water. The mixture was heated to 85° C., and then cooled to 70° C. At this point 5.2 g of Na2S-9H2O was added, keeping reaction between 80-85° C. After addition, reaction was heated for 2 h at 85° C. Solution was then cooled in ice bath, and resulting precipitate was collected via filtration. The solid was then placed in 30 mL of water, brought to a boil, acidified with AcOH, along with 170 mg of norit being added. The solution was filtered hot, then cooled with 1.97 g of title compound crystalizing out of solution. The compound was carried on without further purification.

reactant | NH4Cl | 10 g | [NH4+].[Cl-]
reactant | NH4OH | 2 mL | [NH4+].[OH-]
reactant | 2-bromo-4,6-dinitro-phenol | 4.7 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])O | C6H3BrN2O5
solvent | water | 50 mL | O | H2O
product | 2-Amino-4-nitro-6-bromo-phenol | NC1=C(C(=CC(=C1)[N+](=O)[O-])Br)O | C6H5BrN2O3
